US06617357B2
To a solution of 2,5-dichloro-4-methyl(morpholino)benzenesulfonamide (773 mg, 2.5 mmol) in pyridine (15 mL) and water (15 mL) at 70° C. was added KMnO4 (1.2 g, 7.50 mmol). The resulting mixture was stirred for 1 h, and then another 500 mg of KMnO4 was added. After stirring at 70° C. overnight, the reaction was filtered via Buchner funnel, washing the precipitated MnO2 with water. The filtrate was diluted with ˜50 mL 1 N NaOH and extracted 4 times with ethyl acetate. The aqueous layer was then acidified with 1 M HCl and extracted twice with ethyl acetate. These second organic extracts were dried and concentrated to provide 4-carboxy-2,5-dichloro (morpholino)benzenesulfonamide (295 mg, 35%) as white crystals. Mass spectrum ES−: 339.8 (M−H).

reactant | 2,5-dichloro-4-methyl(morpholino)benzenesulfonamide | 2.5 mmol, 773 mg | ClC1=C(C=C(C(=C1N1CCOCC1)C)Cl)S(=O)(=O)N | C11H14Cl2N2O3S
reactant | KMnO4 | 7.50 mmol, 1.2 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | KMnO4 | 500 mg | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 15 mL | O | H2O
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 4-carboxy-2,5-dichloro (morpholino)benzenesulfonamide | 295 mg, 35% | C(=O)(O)C1=C(C(=C(C=C1Cl)S(=O)(=O)N)Cl)N1CCOCC1 | C11H12Cl2N2O5S
